US07279575B2
2-bromo-1-(9H-purin-6-yl)ethanone
A solution of 6-(1-ethoxyvinyl)-9-tetrahydro-2H-pyran-2-yl-9H-purine (430 mg, 1.57 mmols), being prepared as described in Tetrahedron, 53 (6), 2291-2302, (1997), in tetrahydrofuran (24 ml) and water (1.5 ml) was treated with N-bromo-succinimide (NBS, 280 mg, 1.57 mmols) and kept at room temperature for 15 minutes. The solution was evaporated under reduced pressure, taken up with water and filtered to obtain the title compound (312 mg, Y=82%) as a yellow solid.

reactant | 6-(1-ethoxyvinyl)-9-tetrahydro-2H-pyran-2-yl-9H-purine | 1.57 mmols, 430 mg | C(C)OC(=C)C1=C2N=CN(C2=NC=N1)C1OCCCC1 | C14H18N4O2
reactant | water | 1.5 ml | O | H2O
reactant | N-bromo-succinimide | 1.57 mmols, 280 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 2-bromo-1-(9H-purin-6-yl)ethanone | 312 mg, 82% | BrCC(=O)C1=C2N=CNC2=NC=N1 | C7H5BrN4O
